US03947408
Preparation of levorotatory-1,2,3,5,10,11a-Hexahydro-10 -methyl-11H-pyrrolo[2,1-c] [1,4] benzodiazepin-11-one
The above compound is obtained when (-)-1,2,3,11 a-tetrahydro-10-methyl-5H-pyrrolo[2,1-c] [1,4] benzodiazepin- 5,11(10H)-dione, melting point 120-122°C. [α]D 25 - 477°, (1.24%, methanol) and (prepared from N-methylisatoic anhydride and D-proline as described in Example 1) is treated with borane in tetrahydrofuran as described in Example 1.

reactant | (-)-1,2,3,11 a-tetrahydro-10-methyl-5H-pyrrolo[2,1-c] [1,4] benzodiazepin- 5,11(10H)-dione | CN1C(C2N(C(C3=C1C=CC=C3)=O)CCC2)=O | C13H14N2O2
reactant | N-methylisatoic anhydride | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | D-proline | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | borane | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1,2,3,5,10,11a-Hexahydro-10 -methyl-11H-pyrrolo[2,1-c] [1,4] benzodiazepin-11-one | CN1C(C2N(CC3=C1C=CC=C3)CCC2)=O | C13H16N2O
